### PR TITLE
Rewrite rules for pushouts

### PR DESCRIPTION
**Pull request by fredrik-bakke**
Adds strict β-laws for the standard pushouts in a new module `synthetic-homotopy-theory.rewriting-pushouts`.

### Todo
- [x] Wait for #885.
- [x] ~Refactor postulates of universal properties to be phrased in terms of coherently invertible maps.~
- [x] Add separate file for rewrites `synthetic-homotopy-theory.rewriting-pushouts`.

### CODE REVIEW

**Comment by fredrik-bakke** [comment]
I just realized, If we add rewrite rules for the computation rules of the eliminator for pushouts, then we should be able to prove funext from the existence of the interval, thus maybe it will be possible to construct `eq-htpy` in such a way that `eq-htpy refl ≐ refl-htpy`...

**Comment by fredrik-bakke** [comment]
Okay, this PR is already blocked on #885. I'll just write my thoughts for the next steps here: To have the most reasonable definitions for the rewrite rules, it is quite important that `cogap` is definitionally both the left and right inverse of `cocone-map`, hence we should postulate `up-pushout` in terms of a version of `universal-property-pushout` using `is-coherently-invertible`.

**Comment by fredrik-bakke** [comment]
This PR reopens #515.

**Comment by fredrik-bakke** [comment]
As @EgbertRijke pointed out to me and I had completely forgotten, we should only implement rewrite rules for the point constructors. Here's the relevant justification from the HoTT/UF book:

image

**Comment by fredrik-bakke** [comment]
I just came across the following sources again today:

- https://groups.google.com/g/homotopytypetheory/c/-5mLEi_qMTo/m/yj9B-XobWOsJ%3Fctz=2597977_56_56_123900_52_436380
- https://www.cs.bham.ac.uk/~mhe/truncation-and-extensionality/hprop-truncation.html
- https://homotopytypetheory.org/2011/04/23/running-circles-around-in-your-proof-assistant/

which reminded me that it should be possible to define pushouts in a way that computes on point constructors without using rewrites! This approach sounds preferable to me if we can be guaranteed that Agda does not leak any additional implementation details.

**Comment by fredrik-bakke** [comment]
Good news! Agda does support adding rewrite rules in a separate file. This means that formalizations that use the rewrite rules for pushouts can live alongside formalizations that don't. The only limitation is that one cannot import formalizations that use rewriting without enabling rewriting, as expected.

**Comment by fredrik-bakke** [comment]
I'm opening this PR up to comments now. Note that the infrastructure for pushouts is not perfect. I'm hoping to improve it a bit over the next week with some additional refactoring.

File: src/synthetic-homotopy-theory/recursion-principle-pushouts.lagda.md [hunk 1]
```diff
@@ -0,0 +1,90 @@
...
+
+  path-compute-rec-recursion-principle-pushout :
+    (h : cocone f g Y) →
+    statement-coherence-htpy-cocone f g
+      ( cocone-map f g c (rec-recursion-principle-pushout h))
+      ( h)
+      ( left-compute-rec-recursion-principle-pushout h)
+      ( right-compute-rec-recursion-principle-pushout h)
+  path-compute-rec-recursion-principle-pushout h =
+    pr2 (pr2 (compute-rec-recursion-principle-pushout h))
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/recursion-principle-pushouts.lagda.md:89]: I'm confused by the name `path` in this entry. Should it be `glue` referring to the constructor `glue` of a pushout? Or should it refer to `coherence-htpy-cocone` in some way?

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/recursion-principle-pushouts.lagda.md:89]: Oh, me too. I copied this from `induction-principle-pushouts`. I'll find a better name

File: src/synthetic-homotopy-theory/rewriting-pushouts.lagda.md [hunk 2]
```diff
@@ -0,0 +1,100 @@
+# Rewriting rules for pushouts
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/rewriting-pushouts.lagda.md:1]: In this file we should probably say something about that we don't intend to globally assume rewriting rules for pushouts. For instance, we can state clearly that we use rewriting rules in the development of simplicial homotopy theory, but we should also say that we are simultaneously accommodating research where the rewriting rules are not assumed.

The point is that we are accommodating both directions of research here, but we want to be clear to future formalizers who are not familiar with our intention that we don't just want to assume these rewriting rules everywhere.

Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/rewriting-pushouts.lagda.md:1]: Ah, wait, somehow I missed that you literally wrote that note already. Apologies for the unnecessary remark.

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/rewriting-pushouts.lagda.md:1]: ah, haha, I thought for a second that you wanted something even clearer

**Comment by EgbertRijke** [comment]
Looks very good!

File: src/synthetic-homotopy-theory/pushouts.lagda.md [hunk 3]
```diff
@@ -114,40 +124,275 @@ cocone-pushout :
...
+
+```agda
   is-section-cogap : is-section (cocone-map f g (cocone-pushout f g)) cogap
-  is-section-cogap = is-section-map-inv-equiv (equiv-up-pushout f g X)
+  is-section-cogap =
+    ( ( triangle-dependent-cocone-map-constant-type-family' f g
+        ( cocone-pushout f g)) ·r
+      ( cogap)) ∙h
+    ( ( cocone-dependent-cocone-constant-type-family f g
+      ( cocone-pushout f g)) ·l
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/pushouts.lagda.md:269]:
```suggestion
        ( cocone-pushout f g)) ·l
```

File: src/synthetic-homotopy-theory/pushouts.lagda.md [hunk 4]
```diff
@@ -114,40 +124,275 @@ cocone-pushout :
...
   where
 
   cogap : cocone f g X → pushout f g → X
-  cogap = map-inv-equiv (equiv-up-pushout f g X)
+  cogap =
+    dependent-cogap f g ∘
+    dependent-cocone-constant-type-family-cocone f g (cocone-pushout f g)
+```
 
+We write out the section and retraction homotopy in full detail to ensure that
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/pushouts.lagda.md:259]: Wouldn't it be more appropriate to write that we define `cogap` as a specific map (to ensure...), so we need to compute the homotopies by hand?

File: src/synthetic-homotopy-theory/rewriting-pushouts.lagda.md [hunk 5]
```diff
@@ -0,0 +1,100 @@
...
+
+open import reflection.rewriting
+
+open import synthetic-homotopy-theory.cocones-under-spans
+open import synthetic-homotopy-theory.pushouts
+```
+
+</details>
+
+## Idea
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/rewriting-pushouts.lagda.md:24]: If I'm not mistaken it's never actually stated that the rewrite rules are enabled only when this file is (transitively) imported by a module. Could you write it down?

The reason is that you link to this file with "when rewriting is enabled for pushouts", and it's not clear how one actually "enables" rewriting for pushouts.

File: src/synthetic-homotopy-theory/pushouts.lagda.md [hunk 6]
```diff
@@ -114,40 +124,275 @@ cocone-pushout :
...
+      ( dependent-cocone-constant-type-family-cocone f g (cocone-pushout f g) c)
+
+  compute-inr-cogap :
+    cogap f g c ∘ inr-pushout f g ~ vertical-map-cocone f g c
+  compute-inr-cogap =
+    compute-inr-dependent-cogap f g
+      ( dependent-cocone-constant-type-family-cocone f g (cocone-pushout f g) c)
+```
+
+<!-- TODO: find the right infrastructure to make the proof below just an application of a more general construction. Note that this is very almost `coherence-htpy-cocone-coherence-htpy-dependent-cocone-constant-type-family`, but an `apd-constant-type-family` has snuck its way into the proof -->
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/pushouts.lagda.md:336]: Could you open an issue for it?

File: src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md [hunk 7]
```diff
@@ -226,3 +304,445 @@ module _
...
+          ( coherence-dependent-htpy-dependent-cocone c c' H P d d' K))
+
+  refl-dependent-htpy-dependent-cocone :
+    ( c : cocone f g X) (P : X → UU l5) (d : dependent-cocone f g c P) →
+    dependent-htpy-dependent-cocone c c (refl-htpy-cocone f g c) P d d
+  pr1 (refl-dependent-htpy-dependent-cocone c P d) = refl-htpy
+  pr1 (pr2 (refl-dependent-htpy-dependent-cocone c P d)) = refl-htpy
+  pr2 (pr2 (refl-dependent-htpy-dependent-cocone c P d)) s =
+    right-unit-dependent-identification P
+      ( pr2 (pr2 c) s)
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md:368]: These `pr2 ∘ pr2` should be accessors

File: src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md [hunk 8]
```diff
@@ -226,3 +304,445 @@ module _
...
+        ( is-torsorial-Eq-structure
+          ( is-torsorial-htpy _)
+          ( vertical-map-dependent-cocone f g c P d , refl-htpy)
+          ( is-torsorial-htpy _))
+```
+
+#### Characterizing equality of cocones equipped with dependent cocones
+
+We now move to characterize equality of cocones equipped with dependent cocones,
+from this, it follows that dependent homotopies of dependent cocones
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md:397]:
```suggestion
from which it follows that dependent homotopies of dependent cocones
```

File: src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md [hunk 9]
```diff
@@ -226,3 +304,445 @@ module _
...
+  pr1 (pr2 (cocone-dependent-cocone-constant-type-family (f' , g' , H))) = g'
+  pr2 (pr2 (cocone-dependent-cocone-constant-type-family (f' , g' , H))) s =
+    ( inv
+      ( tr-constant-type-family (coherence-square-cocone f g c s) (f' (f s)))) ∙
+    ( H s)
+
+  is-section-cocone-dependent-cocone-constant-type-family :
+    is-section
+      dependent-cocone-constant-type-family-cocone
+      cocone-dependent-cocone-constant-type-family
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md:505]:
```suggestion
    is-section
      ( dependent-cocone-constant-type-family-cocone)
      ( cocone-dependent-cocone-constant-type-family)
```

And similarly with `is-retraction`

File: src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md [hunk 10]
```diff
@@ -226,3 +304,445 @@ module _
...
+### Computing the dependent cocone map on a constant type family
+
+```agda
+module _
+  {l1 l2 l3 l4 l5 : Level} {S : UU l1} {A : UU l2} {B : UU l3} {X : UU l4}
+  (f : S → A) (g : S → B) (c : cocone f g X) {Y : UU l5}
+  where
+
+  triangle-dependent-cocone-map-constant-type-family :
+    dependent-cocone-map f g c (λ _ → Y) ~
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md:556]: Can these triangles be `coherence-triangle-maps`?

File: src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md [hunk 11]
```diff
@@ -226,3 +304,445 @@ module _
...
+
+```agda
+module _
+  {l1 l2 l3 l4 l5 : Level}
+  {S : UU l1} {A : UU l2} {B : UU l3} (f : S → A) (g : S → B)
+  {X : UU l4} (c : cocone f g X)
+  (Y : UU l5)
+  where
+
+  coherence-htpy-dependent-cocone-constant-type-family-coherence-htpy-cocone :
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md:637]: This name doesn't sound right, since it has a `coherence-htpy-dependent-cocone` as an input and outputs `coherence-htpy-cocone`, so it should be called `coherence-htpy-cocone-coherence-htpy-dependent-cocone-constant-type-family`, but the next definition is already called that. I don't have a better suggestion though.

File: src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md [hunk 12]
```diff
@@ -226,3 +304,445 @@ module _
...
+          ( tr-constant-type-family
+            ( coherence-square-cocone f g c x)
+            ( horizontal-map-dependent-cocone f g c (λ _ → Y) d (f x))))
+        ( ap (tr (λ _ → Y) (coherence-square-cocone f g c x)) (K (f x)))
+        ( coherence-square-dependent-cocone f g c (λ _ → Y) d' x))) ∙
+    ap
+      ( _∙ coherence-square-dependent-cocone f g c (λ _ → Y) d' x)
+      ( naturality-inv-tr-constant-type-family
+        ( coherence-square-cocone f g c x)
+        ( K (f x))) ∙
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md:678]:
```suggestion
    ( ap
      ( _∙ coherence-square-dependent-cocone f g c (λ _ → Y) d' x)
      ( naturality-inv-tr-constant-type-family
        ( coherence-square-cocone f g c x)
        ( K (f x)))) ∙
```

File: src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md [hunk 13]
```diff
@@ -226,3 +304,445 @@ module _
...
+      vertical-map-dependent-cocone f g c (λ _ → Y) d')
+    ( H : coherence-htpy-dependent-cocone f g c (λ _ → Y) d d' K L) →
+    statement-coherence-htpy-cocone f g
+      ( cocone-dependent-cocone-constant-type-family f g c d)
+      ( cocone-dependent-cocone-constant-type-family f g c d')
+      ( K)
+      ( L)
+  coherence-htpy-dependent-cocone-constant-type-family-coherence-htpy-cocone
+    d d' K L H x =
+    ( assoc
```
Comment (VojtechStep) [inline src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md:653]: This `assoc` `ap` `inv-assoc` business smells like `left-whisker-concat-coherence-square-identifications` (which does `p ∙ q = r ∙ s -> (t ∙ p) ∙ q = (t ∙ r) ∙ s`). You don't need to rewrite it though.

File: src/synthetic-homotopy-theory/dependent-universal-property-pushouts.lagda.md [hunk 14]
```diff
@@ -124,28 +127,33 @@ htpy-eq-dependent-cocone-map f g c ind-c {P} h h' p =
...
-          ( ind-induction-principle-pushout f g c
-            ( ind-c)
-            ( P)
-            ( dependent-cocone-map f g c P h))
-          ( h)
-          ( pr2 (ind-c P) (dependent-cocone-map f g c P h))))
+          ( P)
+          ( dependent-cocone-map f g c P h))
+        ( h)
+        ( pr2 (ind-c P) (dependent-cocone-map f g c P h)))
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/dependent-universal-property-pushouts.lagda.md:147]: So, I actually tried using `compute-ind-induction-principle-pushout` before posting this PR, and it just wouldn't type check for some reason. I'll have a look again and see what's up with that. Thanks for reminding me about it!

File: src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md (hunk 10 above)
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md:556]: Yes, but I find this form easier to read and use

File: src/synthetic-homotopy-theory/pushouts.lagda.md [hunk 15]
```diff
@@ -114,40 +124,275 @@ cocone-pushout :
...
+      ( dependent-cogap f g)
+  is-section-dependent-cogap {P = P} c =
+    eq-htpy-dependent-cocone f g
+      ( cocone-pushout f g)
+      ( P)
+      ( dependent-cocone-map f g (cocone-pushout f g) P (dependent-cogap f g c))
+      ( c)
+      ( htpy-compute-dependent-cogap f g c)
+
+  induction-principle-pushout' :
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/pushouts.lagda.md:206]: 👀

File: src/synthetic-homotopy-theory/pushouts.lagda.md [hunk 16]
```diff
@@ -114,40 +124,275 @@ cocone-pushout :
...
   {l1 l2 l3 l4 : Level} {S : UU l1} {A : UU l2} {B : UU l3}
-  (f : S → A) (g : S → B) (X : UU l4) → (pushout f g → X) ≃ (cocone f g X)
-pr1 (equiv-up-pushout f g X) = cocone-map f g (cocone-pushout f g)
-pr2 (equiv-up-pushout f g X) = up-pushout f g X
+  (f : S → A) (g : S → B) {P : pushout f g → UU l4}
+  (c : dependent-cocone f g (cocone-pushout f g) P)
+  where
+
+  postulate
+    dependent-cogap : (x : pushout f g) → P x
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/pushouts.lagda.md:139]: Let me know if you are happy with what I've written now.

File: src/synthetic-homotopy-theory/recursion-principle-pushouts.lagda.md [hunk 17]
```diff
@@ -0,0 +1,90 @@
...
+open import synthetic-homotopy-theory.cocones-under-spans
+open import synthetic-homotopy-theory.dependent-cocones-under-spans
+```
+
+</details>
+
+## Idea
+
+The {{#concept "recursion principle of pushouts"}} asserts that for every type
+`Y` and [cocone](synthetic-homotopy-theory.dependent-cocones-under-spans.md) on
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/recursion-principle-pushouts.lagda.md:24]: nope 🙃

File: src/synthetic-homotopy-theory/recursion-principle-pushouts.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/recursion-principle-pushouts.lagda.md:89]: oh, it's computation on `glue`*

File: src/synthetic-homotopy-theory/rewriting-pushouts.lagda.md (hunk 5 above)
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/rewriting-pushouts.lagda.md:24]: let me know if this is better

File: src/synthetic-homotopy-theory/rewriting-pushouts.lagda.md (hunk 2 above)
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/rewriting-pushouts.lagda.md:1]: should I resolve this comment?

File: src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md (hunk 11 above)
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md:637]: is this better? 😕

File: src/synthetic-homotopy-theory/pushouts.lagda.md (hunk 6 above)
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/pushouts.lagda.md:343]: This is now issue #1120.

File: src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md (hunk 13 above)
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md:653]: Thanks! If you are right, this us super-helpful!

File: src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md (hunk 11 above)
Comment (VojtechStep) [reply src/synthetic-homotopy-theory/dependent-cocones-under-spans.lagda.md]: Yes, thanks 👍

**Review by VojtechStep — APPROVED** [review]
